US06713474B2
A mixture of trans-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (50 mg, 0.119 mol) in pyridine (2 mL) and dichloromethane (2 mL) was cooled to 0° C. then treated with benzyl chloroformate (22 mg, 0.131 mmol). The mixture was warmed to ambient temperature and stirred an additional 2 hours, evaporated and the residue purified by preparative reverse-phase chromatography to give trans-benzyl N-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}benzyl)carbamate: 1H NMR (DMSO-d6, 400 MHz) 8.13(s, 1H), 7.85(t, 1H), 7.3-7.42(m, 10H), 6.02(bs, 2H), 5.06(s, 2H), 4.54(m, 1H), 4.26(d, 2H), 1.44-2.37(m, 20H); RP-HPLC (Hypersil HS C18, 5 m, 100 A, 250×4.6 mm; 5%-50% acetonitrile over 25 min, 1 mL/min) tr 22.15 min.; MS:MH+ 554.3.

reactant | trans-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.119 mol, 50 mg | NCC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C24H33N7
reactant | benzyl chloroformate | 0.131 mmol, 22 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | trans-benzyl N-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}benzyl)carbamate | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(CNC(OCC1=CC=CC=C1)=O)C=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C32H39N7O2
